US08183264B2
4-(3-(2-Amino-pyridin-3-yl)-[1,2,4]oxadiazol-5-ylmethyl)-phenol
To a solution of TFA (2 mL) of 3-(5-(4-benzyloxy-benzyl)-[1,2,4]-oxadiazol-3-yl)-pyridin-2-ylamine (52 mg) described in Example 13 was added thioanisole (68 μL) at 0° C., which was stirred for 2 hours and 40 minutes at room temperature. Sodium hydrogencarbonate and water were added at 0° C. to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate, and filtered, after which the solvent was evaporated from the filtrate under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=20:1) to obtain the titled compound (40 mg).

reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3-(5-(4-benzyloxy-benzyl)-[1,2,4]-oxadiazol-3-yl)-pyridin-2-ylamine | 52 mg | C(C1=CC=CC=C1)OC1=CC=C(CC2=NC(=NO2)C=2C(=NC=CC2)N)C=C1 | C21H18N4O2
reactant | thioanisole | 68 μL | C1(=CC=CC=C1)SC | C7H8S
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4-(3-(2-Amino-pyridin-3-yl)-[1,2,4]oxadiazol-5-ylmethyl)-phenol | 40 mg | NC1=NC=CC=C1C1=NOC(=N1)CC1=CC=C(C=C1)O | C14H12N4O2
